US06248739B1
A flask containing 4-(4-aminobenzyl)morpholine from Preparation No. 22 (0.48 g) is treated with tetrhydrofuran (10 mL) and N-methyl-4-piperidone (0.37 mL) under an argon atmosphere. The solution is treated with acetic acid (0.20 mL) followed by sodium triacetoxyborohydride (0.80 g). After stirring overnight, the mixture is partitioned between diethyl ether and saturated aqueous sodium bicarbonate containing sodium hyroxide. The aqueous is back-extracted with additional portions of dichloromethane. The combined organic layer is washed with brine, dried over sodium sulfate, and concentrated under reduced pressure. The residue is purified by flash column chromatography on silica gel eluting with 2% to 5% methanol saturated with ammonia in dichloromethane to afford 0.52 g of 1-methyl-N-[4-(4-morpholinylmethyl)phenyl]-4-piperidinamine as a tan solid.

reactant | 4-(4-aminobenzyl)morpholine | NC1=CC=C(CN2CCOCC2)C=C1 | C11H16N2O
reactant | N-methyl-4-piperidone | 0.37 mL | CN1CCC(CC1)=O | C6H11NO
reactant | sodium triacetoxyborohydride | 0.80 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | acetic acid | 0.20 mL | C(C)(=O)O | C2H4O2
product | 1-methyl-N-[4-(4-morpholinylmethyl)phenyl]-4-piperidinamine | 0.52 g | CN1CCC(CC1)NC1=CC=C(C=C1)CN1CCOCC1 | C17H27N3O
